### PR TITLE
feat(Computability/DFA): Closure of regular languages under some set operations

### PR DESCRIPTION
**Pull request by maemre**
This shows that regular languages are closed under complement and intersection by constructing DFAs for them.

---

Closure under all other operations will be proved when someone adds the proof for DFA<->regular expression equivalence, so they are not part of this PR.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/DFA.lean [hunk 1]
```diff
@@ -164,6 +164,82 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+-/
+def cartesian_product (p : Prop → Prop → Prop) (M₁ : DFA α σ) (M₂ : DFA α σ') : DFA α (σ × σ') := {
+  step := fun ⟨s₁, s₂⟩ a => (M₁.step s₁ a, M₂.step s₂ a),
+  start := (M₁.start, M₂.start),
+  accept := {s | p (s.fst ∈ M₁.accept) (s.snd ∈ M₂.accept)}
+}
+
+theorem cartesian_product_accept_iff
+    (p : Prop → Prop → Prop) (M₁ : DFA α σ) (M₂ : DFA α σ') (s : σ × σ') :
+    s ∈ (cartesian_product p M₁ M₂).accept ↔ p (s.fst ∈ M₁.accept) (s.snd ∈ M₂.accept) := by
```
Comment (EtienneC30) [inline Mathlib/Computability/DFA.lean:205]: You can also write `M₁.cartesian_product p M₂`. This feels a bit weird with the `p` in the middle, so you could move the p after the DFAs in the arguments of the def. This is just a suggestion, feel free to keep it as it is if you prefer.

**Review by EtienneC30 — COMMENTED** [review]
Thank you for this! Here are a few comments, also with suggestions for better readability.

File: Mathlib/Computability/DFA.lean [hunk 2]
```diff
@@ -164,6 +164,82 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+def compl (M : DFA α σ) : DFA α σ := {
+  step := M.step,
+  start := M.start,
+  accept := M.acceptᶜ,
+}
+
+instance : HasCompl (DFA α σ) := ⟨compl⟩
+
+theorem invert_accept_iff (s : σ) : s ∈ Mᶜ.accept ↔ s ∉ M.accept := by
+  simp [HasCompl.compl, compl]
```
[the remark this answers is not in the document]
Comment (maemre) [reply Mathlib/Computability/DFA.lean:184]: I don't exactly understand this suggestion.

Do you want to add another lemma like the following before this then just use `simp` here?

```lean
theorem compl_accept_eq_accept_compl (s : σ) : Mᶜ.accept = M.acceptᶜ := by ...
```

File: Mathlib/Computability/DFA.lean [hunk 3]
```diff
@@ -164,6 +164,82 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+  apply invert_accept_iff
+
+/--
+ Cartesian product of two DFAs with an arbitrary acceptance condition given by the binary Boolean
+ algebra operation `p`.  `p` takes in whether `M₁` and `M₂` accept their respective inputs and
+ returns whether the product of the two DFAs should accept the pair of inputs.
+
+ This is a generalization of the intersection of two DFAs to arbitrary binary set operations.
+-/
+def cartesian_product (p : Prop → Prop → Prop) (M₁ : DFA α σ) (M₂ : DFA α σ') : DFA α (σ × σ') := {
```
[the remark this answers is not in the document]
Comment (maemre) [reply Mathlib/Computability/DFA.lean]: changed the name to `product`

File: Mathlib/Computability/DFA.lean [hunk 4]
```diff
@@ -164,6 +164,82 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+  · simp
+  · intro s
+    simp [List.foldl, ih, DFA.step]
+
+theorem cartesian_product_accepts_iff
+    (p : Prop → Prop → Prop) (M₁ : DFA α σ) (M₂ : DFA α σ') (x : List α) :
+    x ∈ (cartesian_product p M₁ M₂).accepts ↔ p (x ∈ M₁.accepts) (x ∈ M₂.accepts) := by
+  simp [DFA.accepts]
+  simp [DFA.acceptsFrom, cartesian_product_eval_from]
+  simp [cartesian_product]
```
[the remark this answers is not in the document]
Comment (maemre) [reply Mathlib/Computability/DFA.lean]: I think I applied your suggestion correctly, but I am not sure.

File: Mathlib/Computability/DFA.lean [hunk 5]
```diff
@@ -164,6 +164,82 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+theorem cartesian_product_accept_iff
+    (p : Prop → Prop → Prop) (M₁ : DFA α σ) (M₂ : DFA α σ') (s : σ × σ') :
+    s ∈ (cartesian_product p M₁ M₂).accept ↔ p (s.fst ∈ M₁.accept) (s.snd ∈ M₂.accept) := by
+  simp [cartesian_product]
+
+theorem cartesian_product_eval_from
+    (p : Prop → Prop → Prop) (M₁ : DFA α σ) (M₂ : DFA α σ') (x : List α) :
+    ∀ s : σ × σ',
+      (cartesian_product p M₁ M₂).evalFrom s x = ⟨M₁.evalFrom s.1 x, M₂.evalFrom s.2 x⟩ := by
+  dsimp [DFA.evalFrom, cartesian_product]
```
[the remark this answers is not in the document]
Comment (maemre) [reply Mathlib/Computability/DFA.lean]: thanks, fixed this in other places too.

File: Mathlib/Computability/DFA.lean [hunk 6]
```diff
@@ -164,6 +164,82 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+  start := M.start,
+  accept := M.acceptᶜ,
+}
+
+instance : HasCompl (DFA α σ) := ⟨compl⟩
+
+theorem invert_accept_iff (s : σ) : s ∈ Mᶜ.accept ↔ s ∉ M.accept := by
+  simp [HasCompl.compl, compl]
+
+theorem invert_accepts_iff (x : List α) : x ∈ Mᶜ.accepts ↔ x ∉ M.accepts := by
```
[the remark this answers is not in the document]
Comment (maemre) [reply Mathlib/Computability/DFA.lean]: This is also how the intersection theorem is stated in #22298. I think that is useful, and I will add those lemmas too.

File: Mathlib/Computability/DFA.lean (hunk 1 above)
Comment (maemre) [reply Mathlib/Computability/DFA.lean]: That syntax is much clearer, thanks for the suggestion!

File: Mathlib/Computability/DFA.lean [hunk 7]
```diff
@@ -164,6 +164,82 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+ -/
+def compl (M : DFA α σ) : DFA α σ := {
+  step := M.step,
+  start := M.start,
+  accept := M.acceptᶜ,
+}
+
+instance : HasCompl (DFA α σ) := ⟨compl⟩
+
+theorem invert_accept_iff (s : σ) : s ∈ Mᶜ.accept ↔ s ∉ M.accept := by
```
[the remark this answers is not in the document]
Comment (maemre) [reply Mathlib/Computability/DFA.lean]: Changed it to `compl`.

File: Mathlib/Computability/DFA.lean [hunk 8]
```diff
@@ -164,6 +164,82 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+
+theorem cartesian_product_accept_iff
+    (p : Prop → Prop → Prop) (M₁ : DFA α σ) (M₂ : DFA α σ') (s : σ × σ') :
+    s ∈ (cartesian_product p M₁ M₂).accept ↔ p (s.fst ∈ M₁.accept) (s.snd ∈ M₂.accept) := by
+  simp [cartesian_product]
+
+theorem cartesian_product_eval_from
+    (p : Prop → Prop → Prop) (M₁ : DFA α σ) (M₂ : DFA α σ') (x : List α) :
+    ∀ s : σ × σ',
+      (cartesian_product p M₁ M₂).evalFrom s x = ⟨M₁.evalFrom s.1 x, M₂.evalFrom s.2 x⟩ := by
```
[the remark this answers is not in the document]
Comment (maemre) [reply Mathlib/Computability/DFA.lean]: Thank you, I didn't know about the `revert` tactic. I changed the statement.

File: Mathlib/Computability/DFA.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (maemre) [reply Mathlib/Computability/DFA.lean]: I added the lemma I mentioned above.

File: Mathlib/Computability/DFA.lean [hunk 9]
```diff
@@ -164,6 +164,82 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+  dsimp [DFA.evalFrom, cartesian_product]
+  induction' x with a x' ih
```
[the remark this answers is not in the document]
Comment (maemre) [reply Mathlib/Computability/DFA.lean]: I switched to `induction`. Does the result look like the preferred style in mathlib4?

**Comment by maemre** [comment]
@EtienneC30 Adding set notation for the closure properties requires adding `Union` and `Intersection` instances to `Language`, which is not defined in this module (it is defined in `Computability/Language`). Should I add them as part of this PR or create a new PR?

File: Mathlib/Computability/DFA.lean (hunk 9 above)
[the remark this answers is not in the document]
Comment (EtienneC30) [reply Mathlib/Computability/DFA.lean]: Yes that's it ,thanks!

File: Mathlib/Computability/DFA.lean (hunk 4 above)
[the remark this answers is not in the document]
Comment (EtienneC30) [reply Mathlib/Computability/DFA.lean]: Yes that was what I meant. The use of `mem_setOf_eq` was bugging me because it's not something we usually write explicitly, and in fact you can just do this for the proof:
```lean
theorem product_accepts_iff
    (p : Prop → Prop → Prop) (M₁ : DFA α σ) (M₂ : DFA α σ') (x : List α) :
    x ∈ (M₁.product M₂ p).accepts ↔ p (x ∈ M₁.accepts) (x ∈ M₂.accepts) := by
  simp only [accepts, acceptsFrom, product_evalFrom]
  rfl
```

**Comment by EtienneC30** [comment]
You can add them in this PR it's fine. The union of languages is actually already defined there but it is registered with an `Add` instance, so the notation is `+`. There is nothing for the intersection, I don't know if there is a special convention for the intersection of languages which uses something other than `∩`, but I guess if it was not registered it's not the case, so you can go with `∩`.

**Comment by EtienneC30** [comment]
Don't forget to remove the awaiting-author label when you are done.

File: Mathlib/Computability/DFA.lean (hunk 4 above)
[the remark this answers is not in the document]
Comment (maemre) [reply Mathlib/Computability/DFA.lean]: Thank you, I just changed the proof to this.

**Comment by maemre** [comment]
@EtienneC30 I added the `Inter` instance for `Language` and added the set notation-based proofs to `Computability/DFA`. I also removed explicit uses of `Set` methods in the closure proofs as you suggested. I am done with all changes.

**Comment by EtienneC30** [comment]
Can you please merge master as suggested by the bot? I don't why it asks, maybe it's because the branch is a bit old, but I think it's better if you do it.

File: Mathlib/Computability/DFA.lean [hunk 10]
```diff
@@ -164,6 +164,116 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+@[simp]
+theorem compl_accept_eq_accept_compl : Mᶜ.accept = M.acceptᶜ := rfl
+
+@[simp]
+theorem compl_accepts_eq_accepts_compl : Mᶜ.accepts = M.acceptsᶜ := rfl
+
+theorem compl_accept_iff (s : σ) : s ∈ Mᶜ.accept ↔ s ∉ M.accept := by simp
+
+theorem compl_accepts_iff (x : List α) : x ∈ Mᶜ.accepts ↔ x ∉ M.accepts := by
+  apply compl_accept_iff
```
Comment (EtienneC30) [inline Mathlib/Computability/DFA.lean:192]: A proof which is just `by apply ...` can usually be replaced by a term-mode proof, which is nicer:
```suggestion
theorem compl_accepts_iff (x : List α) : x ∈ Mᶜ.accepts ↔ x ∉ M.accepts :=
  compl_accept_iff M _
```

File: Mathlib/Computability/DFA.lean [hunk 11]
```diff
@@ -164,6 +164,116 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+    x ∈ (M₁.product M₂ p).accepts ↔ p (x ∈ M₁.accepts) (x ∈ M₂.accepts) := by
+  simp only [accepts, acceptsFrom, product_evalFrom]
+  rfl
+
+/--
+ Constructs a DFA for the intersection of the languages of two DFAs.
+
+ There is no instance for this to provide the `M₁ ∩ M₂` syntax, because M₁ and M₂ have
+ different state types. -/
+def intersect (M₁ : DFA α σ) (M₂ : DFA α σ') : DFA α (σ × σ') := product M₁ M₂ And
```
Comment (EtienneC30) [inline Mathlib/Computability/DFA.lean:233]: I think this should be called `inter` because that's how we refer to intersection usually. You should also change the name of all the theorems which use `intersect`.
```suggestion
def inter (M₁ : DFA α σ) (M₂ : DFA α σ') : DFA α (σ × σ') := product M₁ M₂ And
```

File: Mathlib/Computability/DFA.lean [hunk 12]
```diff
@@ -164,6 +164,116 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+
+theorem intersect_accept_iff (M₁ : DFA α σ) (M₂ : DFA α σ') (s : σ × σ') :
+    s ∈ (M₁.intersect M₂).accept ↔ s.fst ∈ M₁.accept ∧ s.snd ∈ M₂.accept := by
+  simp [intersect, product_accept_iff]
+
+theorem intersect_accepts_iff (M₁ : DFA α σ) (M₂ : DFA α σ') (x : List α) :
+    x ∈ (M₁.intersect M₂).accepts ↔ x ∈ M₁.accepts ∧ x ∈ M₂.accepts := by
+  simp [intersect, product_accepts_iff]
+
+theorem intersect_accept_eq_product_accept (M₁ : DFA α σ) (M₂ : DFA α σ') :
```
Comment (EtienneC30) [inline Mathlib/Computability/DFA.lean:243]: The product of sets is referred to as `prod` in names.
```suggestion
theorem inter_accept_eq_prod_accept (M₁ : DFA α σ) (M₂ : DFA α σ') :
```

File: Mathlib/Computability/DFA.lean [hunk 13]
```diff
@@ -164,6 +164,116 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+    (M₁.intersect M₂).accept = M₁.accept ×ˢ M₂.accept := by
+  ext ⟨s₁, s₂⟩
+  simp [intersect_accept_iff]
+
+theorem intersect_accepts_intersect (M₁ : DFA α σ) (M₂ : DFA α σ') :
```
Comment (EtienneC30) [inline Mathlib/Computability/DFA.lean:248]: I would suggest this name:
```suggestion
theorem inter_accepts_eq_inter(M₁ : DFA α σ) (M₂ : DFA α σ') :
```

**Review by EtienneC30 — COMMENTED** [review]
This seems fine, just a few remarks about naming.

**Comment by maemre** [comment]
I renamed `intersect` to `inter` and replaced the `apply` with the term-mode proof.

File: Mathlib/Computability/DFA.lean (hunk 12 above)
Comment (EtienneC30) [reply Mathlib/Computability/DFA.lean]: You did not apply this.

**Comment by EtienneC30** [comment]
Please address all the remarks before removing the awaiting-author label. If you applied a suggestion, you can resolve the conversation, this makes things easier to read. If you disagree with a suggestion, please say it so that we can discuss it.

File: Mathlib/Computability/DFA.lean (hunk 12 above)
Comment (maemre) [reply Mathlib/Computability/DFA.lean]: I am sorry for missing this. Just fixed it.

File: Mathlib/Computability/DFA.lean (hunk 13 above)
Comment (maemre) [reply Mathlib/Computability/DFA.lean]: Applied this name.

**Comment by maemre** [comment]
I am sorry for missing the last two remarks. I just fixed them and resolved the conversation. I will be careful about the PR workflow going forward.

**Comment by EtienneC30** [comment]
No problem, it takes a bit of time to get used to the review process. This PR is in good shape I think, now we have to wait for a maintainer to take a look at it and merge it. Thank you for your work!
maintainer merge

**Comment by urkud** [comment]
Could you please add statements in terms of `Language.IsRegular`?

File: Mathlib/Computability/DFA.lean [hunk 14]
```diff
@@ -164,6 +164,116 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
   rwa [mem_accepts, eval, evalFrom_of_append, evalFrom_of_append, h, hc]
 
+section SetClosure
+
+variable {σ' : Type v}
+
+/--
+ `M.compl` constructs a DFA for the complement of the language of `M`.
+
+ Use `Mᶜ` rather than directly using this function.
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:174]:
```suggestion
`M.compl` constructs a DFA for the complement of the language of `M`.

Use `Mᶜ` rather than directly using this function.
```
Same below

File: Mathlib/Computability/DFA.lean [hunk 15]
```diff
@@ -164,6 +164,116 @@ theorem pumping_lemma [Fintype σ] {x : List α} (hx : x ∈ M.accepts)
...
+
+instance : HasCompl (DFA α σ) := ⟨compl⟩
+
+@[simp]
+theorem compl_accept_eq_accept_compl : Mᶜ.accept = M.acceptᶜ := rfl
+
+@[simp]
+theorem compl_accepts_eq_accepts_compl : Mᶜ.accepts = M.acceptsᶜ := rfl
+
+theorem compl_accept_iff (s : σ) : s ∈ Mᶜ.accept ↔ s ∉ M.accept := by simp
```
Comment (YaelDillies) [inline Mathlib/Computability/DFA.lean:189]:
```suggestion
theorem mem_accept_compl {s : σ} : s ∈ Mᶜ.accept ↔ s ∉ M.accept := by simp
```
Same below

**Comment by meithecatte** [comment]
Relevant Zulip discussion: [#mathlib4 > Regular languages: the review queue](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Regular.20languages.3A.20the.20review.20queue/with/514669532)

File: Mathlib/Computability/DFA.lean (hunk 15 above)
Comment (maemre) [reply Mathlib/Computability/DFA.lean]: I made these changes for the theorems about complements. For other set operations (union and intersection), what would be good choices for making parameters implicit w.r.t. mathlib4 expectations?

For example, currently I have:

```lean
theorem inter_accept_iff (M₁ : DFA α σ) (M₂ : DFA α σ') (s : σ × σ') :
    s ∈ (M₁.inter M₂).accept ↔ s.fst ∈ M₁.accept ∧ s.snd ∈ M₂.accept := by
```

I will rename it to `mem_accept_inter`. My question is should I:
- Make `s` implicit?
- Make all three of `M₁`, `M₂`, `s` implicit?

I think the first option makes sense (it'd mirror the signature of `mem_accept_compl`).

Comment (YaelDillies) [reply Mathlib/Computability/DFA.lean]: Iffs should in general have as many implicit arguments as possible so that one can write `iff_lemma.1`/`iff_lemma.2` to get access to the forward and backward implications

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
